US07173024B2
BOC-L-alanyl-pyrrolidine
10.0 g (53 mmol) BOC-alanine was coupled to 8.7 ml (105 mmol) pyrrolidine according to procedure B. Yield of active ester 14.97 g (52 mmol, 98%). Yield of crude product 10.97 g. The product was purified by a silica column using 50–100% ethyl acetate in petroleum ether as eluent. Yield 9.07 g (37.4 mmol, 72%).

reactant | BOC-alanine | 53 mmol, 10.0 g | C(=O)(OC(C)(C)C)N[C@@H](C)C(=O)O | C8H15NO4
reactant | pyrrolidine | 105 mmol, 8.7 ml | N1CCCC1 | C4H9N
product | BOC-L-alanyl-pyrrolidine | C(=O)(OC(C)(C)C)N[C@@H](C)C(=O)N1CCCC1 | C12H22N2O3
